US07776910B2
Mesyl chloride (7.53 mL, 0.09726 mol) was added, at −78° C., to a solution of [2-(4-bromo-2-methyl-phenyl)-4-hydroxy-butyl]-carbamic acid tert-butyl ester (30.3 g, 0.08457 mol) in DCM (600 mL) followed by TEA (27 mL, 0.1945 mol). The reaction mixture was stirred at −78° C. for 1 hour, then allowed to reach room temperature with stirring for an additional hour. A saturated aqueous solution of NH4Cl was added, and the resulting mixture was extracted with DCM. The combined organic extracts were dried over MgSO4, filtered, and evaporated under reduced pressure to give methanesulfonic acid 3-(4-bromo-2-methyl-phenyl)-4-tert-butoxycarbonylamino-butyl ester, which was used without further purification.

reactant | Mesyl chloride | 0.09726 mol, 7.53 mL | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | [2-(4-bromo-2-methyl-phenyl)-4-hydroxy-butyl]-carbamic acid tert-butyl ester | 0.08457 mol, 30.3 g | C(C)(C)(C)OC(NCC(CCO)C1=C(C=C(C=C1)Br)C)=O | C16H24BrNO3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DCM | 600 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 3-(4-bromo-2-methyl-phenyl)-4-tert-butoxycarbonylamino-butyl ester | BrC1=CC(=C(C=C1)C(CCOS(=O)(=O)C)CNC(=O)OC(C)(C)C)C | C17H26BrNO5S
